US04623657
5,7-Dibromo-3-(3-dimethylaminopropyl)-spiro[benzofuran-2(3H),1'-cycloheptane] hydrochloride hydrate
To a stirred solution of 8.4 g of 5-bromo-3-(3-dimethylaminopropyl)-spiro[benzofuran-2(3H),1'-cycloheptane] hydrochloride in 57 ml of methanol, at room temperature under nitrogen, was added 7.44 g of N-bromosuccinimide. All solid dissolved as the pot temperature rose to 37° C. After stirring overnight at room temperature under nitrogen, the mixture was poured into 250 ml of water, made basic by addition of 100 ml of 10% aqueous sodium hydroxide solution, and extracted with ethyl acetate (2×250 ml). The combined organic extracts were washed with water (100 ml) and saturated sodium chloride solution (100 ml) and dried overnight over anhydrous sodium sulfate. Filtration and concentration in vacuo afforded a mixture of oil and solid. This material was taken up in 100 ml of ethyl acetate and gravity-filtered, and the filtrate was stirred and treated dropwise with 10 ml of hydrogen chloride-saturated ether solution. The precipitated salt was filtered off, washed with ether and dried in vacuo to afford 2.85 g of a solid, m.p. sinters 200°, 202°-204° C. A second crop which had precipitated out of the filtrate was filtered off and washed with ether to afford, without drying, an additional 1.2 g of a solid, m.p. sinters 200°, 201°-202.5° C. The two crops of crude salt were combined and dissolved in 50 ml of absolute ethanol and gravity-filtered, and the filtrate was treated dropwise with ether (350 ml) with stirring. After stirring the mixture for a short period of time, the recrystallized solid was filtered off, washed with ether and dried to afford 2.2 g of a solid, m.p. 203.5°-206° C.

reactant | 5-bromo-3-(3-dimethylaminopropyl)-spiro[benzofuran-2(3H),1'-cycloheptane] hydrochloride | 8.4 g | Cl.BrC=1C=CC2=C(C(C3(CCCCCC3)O2)CCCN(C)C)C1
reactant | N-bromosuccinimide | 7.44 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 250 ml | O | H2O
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | methanol | 57 ml | CO | CH4O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5,7-Dibromo-3-(3-dimethylaminopropyl)-spiro[benzofuran-2(3H),1'-cycloheptane] hydrochloride hydrate | 2.85 g | O.Cl.BrC=1C=C(C2=C(C(C3(CCCCCC3)O2)CCCN(C)C)C1)Br | InChI=1S/C19H27Br2NO.ClH.H2O/c1-22(2)11-7-8-16-15-12-14(20)13-17(21)18(15)23-19(16)9-5-3-4-6-10-19;;/h12-13,16H,3-11H2,1-2H3;1H;1H2
